US08791130B2
A mixture of N2-(4-bromo-2-methoxyphenyl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine (0.151 g, 0.4 mmol), Pd(dppf)Cl2 (33 mg, 0.04 mmol) and 1-methyl-5-(tributylstannyl)-1H-imidazole (297 mg, 0.8 mmol) in dioxane (5 mL) was degassed under a stream of nitrogen for 10 min. The reaction tube was sealed and heated at 100° C. during 18 hours. The mixture was cooled and concentrated under reduced pressure. The residue was partitioned between ethyl acetate (20 mL) and water (20 mL) and the product extracted into ethyl acetate (2×20 mL). The combined organics were passed through a phase separation cartridge and the solvent removed under reduced pressure. Purification of the residue via preparative HPLC afforded N2-(2-methoxy-4-(1-methyl-1H-imidazol-5-yl)phenyl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine as a beige solid (64 mg, 42%). LCMS (10 cm_ESCI_Bicarb_MeCN): [MH+]=379 at 3.59 min. 1H NMR (400 MHz, DMSO): δ 8.33 (d, J=8.3, 1H); 8.21 (s, 1H); 8.10 (s, 1H); 7.72 (s, 1H); 7.23 (d, J=5.2, 1H); 7.16-7.07 (m, 3H); 3.95 (s, 3H); 3.74 (s, 3H); 2.96 (d, J=4.3, 3H).

reactant | N2-(4-bromo-2-methoxyphenyl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine | 0.4 mmol, 0.151 g | BrC1=CC(=C(C=C1)NC1=NC=C(C(=N1)NC)C(F)(F)F)OC | C13H12BrF3N4O
reactant | 1-methyl-5-(tributylstannyl)-1H-imidazole | 0.8 mmol, 297 mg | CN1C=NC=C1[Sn](CCCC)(CCCC)CCCC
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.04 mmol, 33 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N2-(2-methoxy-4-(1-methyl-1H-imidazol-5-yl)phenyl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine | 64 mg, 42% | COC1=C(C=CC(=C1)C1=CN=CN1C)NC1=NC=C(C(=N1)NC)C(F)(F)F | C17H17F3N6O
